US07230098B2
5-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-1H-indole-2-carboxylic acid ethyl ester was prepared from 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine and 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-2-carboxylic acid ethyl ester following procedure 3.

reactant | 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)OCC1=C(C=CC=C1Cl)Cl | C12H9BrCl2N2O
reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C17H22BNO4
product | 5-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C=1C=NC(=C(C1)OCC1=C(C=CC=C1Cl)Cl)N | C23H19Cl2N3O3
